US05679851
80 g of the thus prepared crude perfluoro(2-methyl-3,8-dioxa-9-decenamide) and 30 g of phosphorus pentoxide were mixed together and pulverized, and charged into a glass flask having a net capacity of 300 ml. Then, the flask was heated to 200° C. Low boiling components formed in the course of the reaction were removed from the flask by distillation through a cooling pipe. Crude residues were distilled in the presence of a small amount of phosphorus pentoxide, whereby 60 g of perfluoro(2-methyl-3,8-dioxa-9-decenonitrile) was obtained (total yield: 55%). Boiling point: 126° C., d420 : 1.2890, n020 : 1.6924

reactant | perfluoro(2-methyl-3,8-dioxa-9-decenamide) | FC(C(=O)N)(OC(C(C(C(OC(=C(F)F)F)(F)F)(F)F)(F)F)(F)F)C(F)(F)F | C9H2F15NO3
reactant | phosphorus pentoxide | 30 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | perfluoro(2-methyl-3,8-dioxa-9-decenonitrile) | 60 g, yield: 55% | FC(C#N)(OC(C(C(C(OC(=C(F)F)F)(F)F)(F)F)(F)F)(F)F)C(F)(F)F | C9F15NO2
